### PR TITLE
[Merged by Bors] - feat: Adjunction between topological spaces and locales

### PR DESCRIPTION
**Pull request by samvang**
We define the contravariant functors between the categories of Frames and Topological Spaces and prove that they form an adjunction. 
Work started at the BIRS workshop "Formalization of Cohomology Theories", Banff, May 2023.

Co-authored-by: Anne Baanen <vierkantor@vierkantor.com>
Co-authored-by: leopoldmayer <leomayer@uw.edu>
Co-authored-by: Brendan Seamas Murphy <shamrockfrost@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by ocfnash — COMMENTED** [review]
Looking good, thanks.

Maybe one more round and good to go!

**Comment by ocfnash** [comment]
Probably also good idea to merge master into this branch since the version of Lean has changed a few times since this was written.

File: Mathlib/Topology/Order/FrameAdjunction.lean [hunk 1]
```diff
@@ -0,0 +1,224 @@
+/-
+Copyright (c) 2023 Anne Baanen, Sam v. Gool, Leo Mayer, Brendan S. Murphy. All rights reserved.
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Order/FrameAdjunction.lean:2]: There are countlessly many files copyrighted by both me and Bhavik.

[the remark this answers is not in the document]
Comment (samvang) [reply Mathlib/Topology/Order/FrameAdjunction.lean:2]: I have no opinion about this.

**Comment by YaelDillies** [comment]
@samvang, are you currently working on this? If not, I can do a cleanup pass.

**Comment by samvang** [comment]
> @samvang, are you currently working on this? If not, I can do a cleanup pass.

Not currently working on this, please do if you feel like it, much appreciated!

**Comment by YaelDillies** [comment]
I've golfed the code, but I haven't fixed the names. They are currently
1. Not capitalised properly
2. Dumped in the root namespace

Not sure which way to fix them, so please offer suggestions!

**Comment by samvang** [comment]
@j-loreaux asked me on Zulip to create a separate PR for the small coercion changes in Order/Hom/Lattice and Order/Hom/CompleteLattice. This is now PR #7796.

File: Mathlib/Logic/Basic.lean [hunk 2]
```diff
@@ -959,6 +959,9 @@ theorem ExistsUnique.unique₂ {α : Sort*} {p : α → Sort*} [∀ x, Subsingle
   exact h.unique ⟨hpy₁, hqy₁⟩ ⟨hpy₂, hqy₂⟩
 #align exists_unique.unique2 ExistsUnique.unique₂
 
+@[simp] lemma elim_exists_prop (q : Prop → Prop) : (∃ p, q p ∧ p) ↔ q True := by
```
Comment (eric-wieser) [inline Mathlib/Logic/Basic.lean:962]: I think a better lemma would be
```suggestion
@[simp] lemma Prop.exists (q : Prop → Prop) : (∃ p, q p) ↔ q True ∨ q False := by
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 3]
```diff
@@ -0,0 +1,142 @@
...
+
+/-- The type of points of a complete lattice `L`, where a *point* of a complete lattice is,
+by definition, a frame homomorphism from `L` to `Prop`. -/
+@[reducible]
+def PT := FrameHom L Prop
+
+/-- The frame homomorphism from a complete lattice `L` to the complete lattice of sets of
+points of `L`. -/
+def OpenOfElementHom : FrameHom L (Set (PT L)) where
+  toFun u := {x | x u}
```
Comment (eric-wieser) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:60]: What's the type of `x` here? If it's a set, this should be
```suggestion
  toFun u := {x | u ∈ x}
```

Comment (eric-wieser) [reply Mathlib/Topology/Order/Category/FrameAdjunction.lean:60]: Ah, nevermind. I think what you have is correct already.

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 4]
```diff
@@ -0,0 +1,142 @@
...
+variable (L L' : Type*) [CompleteLattice L] [CompleteLattice L']
+
+/-- The type of points of a complete lattice `L`, where a *point* of a complete lattice is,
+by definition, a frame homomorphism from `L` to `Prop`. -/
+@[reducible]
+def PT := FrameHom L Prop
+
+/-- The frame homomorphism from a complete lattice `L` to the complete lattice of sets of
+points of `L`. -/
+def OpenOfElementHom : FrameHom L (Set (PT L)) where
```
Comment (eric-wieser) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:59]:
```suggestion
@[simps]
def OpenOfElementHom : FrameHom L (Set (PT L)) where
```

File: Mathlib/Logic/Basic.lean (hunk 2 above)
Comment (samvang) [reply Mathlib/Logic/Basic.lean:962]: This already exists (no pun intended), under `Prop.exists_iff`. I will remove this new simp lemma from the file and instead give a `Prop.exists_iff` hint to the two `simp`s in FrameAdjunction that need it. Thanks!

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 4 above)
Comment (samvang) [reply Mathlib/Topology/Order/Category/FrameAdjunction.lean:60]: thanks I add this.

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 5]
```diff
@@ -0,0 +1,129 @@
...
+
+## Tags
+
+topological space, frame, locale, Stone duality, adjunction, points
+-/
+
+open CategoryTheory Order Set Topology TopologicalSpace
+
+namespace CategoryTheory
+namespace Locale
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:45]:
```suggestion
namespace CategoryTheory.Locale
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 6]
```diff
@@ -0,0 +1,129 @@
...
+
+/- ### Definition of the points functor `pt` --/
+
+section pt_definition
+variable (L L' : Type*) [CompleteLattice L] [CompleteLattice L']
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:50]:
```suggestion
section pt_definition

variable (L : Type*) [CompleteLattice L]
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 7]
```diff
@@ -0,0 +1,129 @@
...
+
+/-- The type of points of a complete lattice `L`, where a *point* of a complete lattice is,
+by definition, a frame homomorphism from `L` to `Prop`. -/
+@[reducible]
+def PT := FrameHom L Prop
+
+/-- The frame homomorphism from a complete lattice `L` to the complete lattice of sets of
+points of `L`. -/
+@[simps]
+def OpenOfElementHom : FrameHom L (Set (PT L)) where
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:60]:
```suggestion
def openOfElementHom : FrameHom L (Set (PT L)) where
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 8]
```diff
@@ -0,0 +1,129 @@
...
+  toFun u := {x | x u}
+  map_inf' a b := by simp; rfl
+  map_top' := by simp; rfl
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:63]:
```suggestion
  map_inf' a b := by simp [Set.setOf_and]
  map_top' := by simp
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 9]
```diff
@@ -0,0 +1,129 @@
...
+  map_sSup' S := by ext; simp [Prop.exists_iff]
+
+namespace PT
+
+/-- The topology on the set of points of the complete lattice `L`. -/
+instance instTopologicalSpace : TopologicalSpace (PT L) where
+  IsOpen s := ∃ u, {x | x u} = s
+  isOpen_univ := ⟨⊤, by simp [Prop.top_eq_true]⟩
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:71]:
```suggestion
  isOpen_univ := ⟨⊤, by simp⟩
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 10]
```diff
@@ -0,0 +1,129 @@
...
+lemma isOpen_iff (U : Set (PT L)) : IsOpen U ↔ ∃ u : L, {x | x u} = U := Iff.rfl
+
+end PT
+
+/-- The contravariant functor `pt` from the category of locales to the category of
+topological spaces, which sends a frame `L` to the topological space `PT L` of homomorphisms
+from `L` to `Prop` and a frame homomorphism `f` to the continuous function `PT.map f`. -/
+def pt : Locale ⥤ TopCat where
+  obj L := ⟨PT L.unop, by infer_instance⟩
+  map f := ⟨fun p ↦ p.comp f.unop, continuous_def.2 $ by rintro s ⟨u, rfl⟩; use f.unop u; rfl⟩
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:88]:
```suggestion
  obj L := ⟨PT L.unop, inferInstance⟩
  map f := ⟨fun p ↦ p.comp f.unop, continuous_def.2 <| by rintro s ⟨u, rfl⟩; use f.unop u; rfl⟩
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 11]
```diff
@@ -0,0 +1,129 @@
...
+end pt_definition
+
+section locale_top_adjunction
+variable (X : Type*) [TopologicalSpace X] (L : Locale)
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:92]:
```suggestion
section locale_top_adjunction

variable (X : Type*) [TopologicalSpace X] (L : Locale)
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 12]
```diff
@@ -0,0 +1,129 @@
...
+
+/-- The function that associates with a point `x` of the space `X` a point of the locale of opens
+of `X`. -/
+@[simps]
+def LocalePointOfSpacePoint (x : X) : PT (Opens X) where
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:97]:
```suggestion
def localePointOfSpacePoint (x : X) : PT (Opens X) where
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 13]
```diff
@@ -0,0 +1,129 @@
...
+  toFun := (x ∈ ·)
+  map_inf' a b := rfl
+  map_top' := rfl
+  map_sSup' S := by simp [Opens.mem_sSup, Prop.exists_iff]
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:101]:
```suggestion
  map_sSup' S := by simp [Prop.exists_iff]
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 14]
```diff
@@ -0,0 +1,129 @@
...
+
+/-- The counit is a frame homomorphism. -/
+def counit_app_cont : FrameHom L (Opens $ PT L) where
+  toFun u := ⟨OpenOfElementHom L u, by use u; rfl⟩
+  map_inf' a b := by simp [OpenOfElementHom]
+  map_top' := by simp [OpenOfElementHom]; rfl
+  map_sSup' S := by simp [OpenOfElementHom]; ext; simp [Opens.coe_mk]
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:108]:
```suggestion
def counitAppCont : FrameHom L (Opens <| PT L) where
  toFun u := ⟨openOfElementHom L u, u, rfl⟩
  map_inf' a b := by simp
  map_top' := by simp
  map_sSup' S := by ext; simp
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 15]
```diff
@@ -0,0 +1,129 @@
...
+def Unit : 𝟭 TopCat ⟶ topToLocale.comp pt where
+  app X := ⟨LocalePointOfSpacePoint X, continuous_def.2 $ by rintro _ ⟨u, rfl⟩; simpa using u.2⟩
+
+/-- The pair of unit and counit. -/
+def unitCounit : Adjunction.CoreUnitCounit topToLocale pt where
+  unit := Unit
+  counit := Counit
+
+/-- The forgetful functor `topToLocale` is left adjoint to the functor `pt`. -/
+def adjunctionTopToLocalePT : topToLocale ⊣ pt := Adjunction.mkOfUnitCounit unitCounit
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:124]:
```suggestion
/-- The forgetful functor `topToLocale` is left adjoint to the functor `pt`. -/
def adjunctionTopToLocalePT : topToLocale ⊣ pt :=
  Adjunction.mkOfUnitCounit
    { unit := { app := fun X ↦ ⟨localePointOfSpacePoint X, continuous_def.2 <|
        by rintro _ ⟨u, rfl⟩; simpa using u.2⟩ }
      counit := { app := fun L ↦ ⟨counitAppCont L⟩ } }
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 16]
```diff
@@ -0,0 +1,129 @@
...
+
+end locale_top_adjunction
+
+end Locale
+end CategoryTheory
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:129]:
```suggestion
end CategoryTheory.Locale
```

**Review by ocfnash — APPROVED** [review]
The suggestions are all just nitpicking / inlining / fixing non-terminal simps.

To get the suggestions to work you will need to add the following `simp` lemmas elsewhere:
```lean
namespace Set

variable {α : Type*}

-- Beneath `Set.setOf_true`
@[simp] theorem setOf_top : { _x : α | ⊤ } = univ := rfl

-- Beneath `Set.setOf_false`
@[simp] theorem setOf_bot : { _x : α | ⊥ } = ∅ := rfl

end Set

namespace TopologicalSpace.Opens

open Set

variable {α : Type*} [TopologicalSpace α]

-- Maybe near `TopologicalSpace.Opens.coe_top`
@[simp] theorem mk_univ : (⟨univ, isOpen_univ⟩ : Opens α) = ⊤ := rfl

-- Maybe near `TopologicalSpace.Opens.coe_bot`
@[simp] theorem mk_empty : (⟨∅, isOpen_empty⟩ : Opens α) = ⊥ := rfl

end TopologicalSpace.Opens
```

Once these suggestions have been made I think this is ready.

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 16 above)
Comment (YaelDillies) [reply Mathlib/Topology/Order/Category/FrameAdjunction.lean:129]: Given that `Locale` is in the root namespace,
```suggestion
end Locale
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 17]
```diff
@@ -41,13 +41,13 @@ topological space, frame, locale, Stone duality, adjunction, points
 
 open CategoryTheory Order Set Topology TopologicalSpace
 
-namespace CategoryTheory
-namespace Locale
+namespace CategoryTheory.Locale
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:44]:
```suggestion
namespace Locale
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 18]
```diff
@@ -0,0 +1,120 @@
...
+Copyright (c) 2023 Anne Baanen, Sam v. Gool, Leo Mayer, Brendan S. Murphy. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Anne Baanen, Sam v. Gool, Leo Mayer, Brendan S. Murphy
+-/
+import Mathlib.Topology.Category.Locale
+
+/-!
+# Adjunction between Locales and Topological Spaces
+
+This file defines functors between the categories of Locales and Topological Spaces
```
Comment (faenuccio) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:11]:
```suggestion
This file defines functors between the categories of Locales and of Topological Spaces
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 19]
```diff
@@ -0,0 +1,120 @@
...
+and proves that they form an adjunction.
+
+## Main declarations
+
+* `pt`: the *points* functor from the category of locales to the category of topological spaces.
```
Comment (faenuccio) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:16]:
```suggestion
* `pt`: the *points* functor from the category of Locales to the category of Topological Spaces.
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 20]
```diff
@@ -0,0 +1,120 @@
...
+* `topToLocale`: the forgetful functor from the category of topological spaces to the category of
```
Comment (faenuccio) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:17]:
```suggestion
* `topToLocale`: the forgetful functor from the category of Topological Spaces to the category of
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 21]
```diff
@@ -0,0 +1,120 @@
...
+  locales.
```
Comment (faenuccio) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:18]:
```suggestion
  Locales.
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 22]
```diff
@@ -0,0 +1,120 @@
...
+
+- `locale_top_adjunction`: the theorem that topToLocale is left adjoint to pt.
```
Comment (faenuccio) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:20]:
```suggestion
- `locale_top_adjunction`: the theorem that `topToLocale`` is left adjoint to `pt``.
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 23]
```diff
@@ -0,0 +1,120 @@
...
+
+## Motivation
+
+This adjunction provides a framework in which several Stone-type dualities fit.
+
+## Implementation notes
+
+- In naming the various functions below, we follow common terminology and reserve the word *point*
+  for an inhabitant of a type `X` which is a topological space, while we use the word *element* for
+  an inhabitant of a type `L` which is a locale.
```
Comment (faenuccio) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:30]: In the first line you used capital T, S, L for Topological Spaces and Locales, but quite consistently you write them with small letters from that point on. Perhaps all my comments should be forgotten and the first occurence is the one to change?

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 19 above)
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:16]: Names need to be fully qualified to work in our docs:
```suggestion
* `Locale.pt`: the *points* functor from the category of locales to the category of topological spaces.
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 20 above)
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:17]: This isn't actually defined here, right?
```suggestion
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 22 above)
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:20]: As well as fully qualifying the names for docs, I suggest not to use the word "theorem" since there's data here (indeed it's a `def`):
```suggestion
- `Locale.adjunctionTopToLocalePT`: the left adjunction between `topToLocale` and `Locale.pt`.
```

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean [hunk 24]
```diff
@@ -0,0 +1,120 @@
...
+    choose f hf using hS
+    use ⨆ t, ⨆ ht, f t ht
+    simp_rw [map_iSup, iSup_Prop_eq, setOf_exists, hf, sUnion_eq_biUnion]
+
+/-- Characterizes when a subset of the space of points is open. -/
+lemma isOpen_iff (U : Set (PT L)) : IsOpen U ↔ ∃ u : L, {x | x u} = U := Iff.rfl
+
+end PT
+
+/-- The contravariant functor `pt` from the category of locales to the category of
```
Comment (ocfnash) [inline Mathlib/Topology/Order/Category/FrameAdjunction.lean:83]: Isn't it covariant?

**Review by ocfnash — COMMENTED** [review]
Thanks for coming back to this.

Please feel free to merge this as soon as you have addressed Filippo's suggestions and my last round of nitpicks.

bors d+

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Topology/Order/Category/FrameAdjunction.lean:16]: Sorry I don't think that makes sense to capitalise non-Lean names.

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 18 above)
Comment (samvang) [reply Mathlib/Topology/Order/Category/FrameAdjunction.lean:11]: I will turn this into lowercase (and add the of). Thanks

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 19 above)
Comment (samvang) [reply Mathlib/Topology/Order/Category/FrameAdjunction.lean:16]: Agreed, I will turn the first occurrence into lower case and leave these lower case.

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 20 above)
Comment (samvang) [reply Mathlib/Topology/Order/Category/FrameAdjunction.lean:17]: Indeed, thanks

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 22 above)
Comment (samvang) [reply Mathlib/Topology/Order/Category/FrameAdjunction.lean:20]: OK. I rephrased your suggestion slightly ("left adjunction" sounds odd to me).

File: Mathlib/Topology/Order/Category/FrameAdjunction.lean (hunk 24 above)
Comment (samvang) [reply Mathlib/Topology/Order/Category/FrameAdjunction.lean:83]: Oops yes. At some point the category of frames was changed into the category of locales (not by me) but the doc strings weren't updated accordingly...
